US08865712B2
d) N-[1-(5-Bromo-2-chloro-pyridin-3-yl)-2-hydroxy-1-hydroxymethyl-ethyl]-2-chloro-acetamide
To a suspension of 2-(5-bromo-2-chloro-pyridin-3-yl)-2-nitropropane-1,3-diol (904 mg, 3.21 mmol) in DCM (64 ml) was added pyridine (2.6 ml, 32.1 mmol), after cooling to −30° C. a solution of chloro-acetylchloride (1.022 ml, 12.84 mmol) in DCM (32 ml) was added within 10 min., the reaction mixture was stirred at −30° C. for 1.5 h. At −30° C. 1M HCl and DCM was added, the layers were separated, the aq. phase extracted with DCM and the combined organic layers washed with halfsaturated aq. NaHCO3 and halfsaturated aq. NaCl, dried with Na2SO4 and evaporated. The obtained per-acetylated product was dissolved in methanol (19.3 ml) and K2CO3 powder (222 mg, 1.6 mmol) added, the mixture was stirred at room temperature for 30 min. After addition of 1M HCl and TBME the layers were separated, the aq. layer was extracted with TBME, the combined organic layers were washed with halfsaturated aq. NaCl, dried with Na2SO4 and evaporated. The residue was purified by chromatography on silica gel (cyclohexane/EtOAc 1:0 to cyclohexane/EtOAc 0:1) to provide the title compound as colorless solid.

reactant | 2-(5-bromo-2-chloro-pyridin-3-yl)-2-nitropropane-1,3-diol | 3.21 mmol, 904 mg | BrC=1C=C(C(=NC1)Cl)C(CO)(CO)[N+](=O)[O-] | C8H8BrClN2O4
reactant | pyridine | 32.1 mmol, 2.6 ml | N1=CC=CC=C1 | C5H5N
reactant | chloro-acetylchloride | 12.84 mmol, 1.022 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | HCl | 1M | Cl | ClH
reactant | K2CO3 | 1.6 mmol, 222 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 1M | Cl | ClH
solvent | DCM | 64 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 32 ml | C(Cl)Cl | CH2Cl2
solvent | TBME | CC(C)(C)OC | C5H12O
product | N-[1-(5-Bromo-2-chloro-pyridin-3-yl)-2-hydroxy-1-hydroxymethyl-ethyl]-2-chloro-acetamide | BrC=1C=C(C(=NC1)Cl)C(CO)(CO)NC(CCl)=O | C10H11BrCl2N2O3
